### PR TITLE
Modal logic

### PR DESCRIPTION
**Pull request by spcfox**
Module containing the formalization of normal modal logics. It includes:
- Syntax and Kripke semantics of modal logics
- Definition of modal logics K and S5
- Constructive proofs of soundness and consistency
- Classical proofs of completeness and finite approximability

The theorems proved are easily generalized to other normal modal logics.

The code is currently being refactored.

### CODE REVIEW

File: src/foundation/equivalence-classes.lagda.md [hunk 1]
```diff
@@ -383,6 +393,199 @@ module _
...
 ```
 
+### TODO: title
+
+```agda
+  is-retraction-apply-effectiveness-class :
+    (x y : A) →
+    apply-effectiveness-class' {x} {y} ∘ apply-effectiveness-class {x} {y} ~ id
+  is-retraction-apply-effectiveness-class x y p =
+    eq-is-prop (is-set-equivalence-class R (class R x) (class R y))
```
Comment (EgbertRijke) [inline src/foundation/equivalence-classes.lagda.md:403]: This entry can go directly at the end of code block here: [The map `class : A → equivalence-class R` is an effective quotient map](https://unimath.github.io/agda-unimath/foundation.equivalence-classes.html#the-map-class--a--equivalence-class-r-is-an-effective-quotient-map)

File: src/foundation/injective-maps.lagda.md [hunk 2]
```diff
@@ -104,3 +111,34 @@ module _
...
+    map-retraction f (retraction-is-injective a)
+  pr2 (surjective-is-injective a) =
+    is-surjective-has-section
+      ( pair f
+        ( is-retraction-map-retraction f
+          ( retraction-is-injective a)))
+
+  is-inhabited-inv-surjections : is-inhabited A → is-inhabited (B ↠ A)
+  is-inhabited-inv-surjections = map-trunc-Prop surjective-is-injective
+```
```
Comment (EgbertRijke) [inline src/foundation/injective-maps.lagda.md:144]: This is very interesting:

The underlying concept here is decidable injective maps. Note that we have the related concept of [decidable embedding](https://unimath.github.io/agda-unimath/foundation.decidable-embeddings.html). This concept is not the same, however, because the fibers of a decidable injective map aren't required to be propositions. It could be worth it to make a separate file for decidable injective maps, explaining what the concept is, its relation and difference with the concept of decidable embedding.

File: src/foundation/intersections-subtypes.lagda.md [hunk 3]
```diff
@@ -59,6 +61,9 @@ module _
     pr1 (p x r)
   pr2 (pr2 (is-greatest-binary-lower-bound-intersection-subtype R) p) x r =
     pr2 (p x r)
+
+  infixr 15 _∩_
+  _∩_ = intersection-subtype
```
Comment (EgbertRijke) [inline src/foundation/intersections-subtypes.lagda.md:66]: Very good! This will indeed be useful

File: src/foundation/law-of-excluded-middle.lagda.md [hunk 4]
```diff
@@ -45,6 +84,62 @@ pr1 (pr2 (decidable-prop-Prop lem P)) = is-prop-type-Prop P
 pr2 (pr2 (decidable-prop-Prop lem P)) = lem P
 ```
 
+### Given LEM, Prop equiv Decidable-Prop
```
Comment (EgbertRijke) [inline src/foundation/law-of-excluded-middle.lagda.md:87]:
```suggestion
### The law of excluded middle implies that `Prop` is equivalent to `Decidable-Prop`
```

File: src/foundation/law-of-excluded-middle.lagda.md [hunk 5]
```diff
@@ -45,6 +84,62 @@ pr1 (pr2 (decidable-prop-Prop lem P)) = is-prop-type-Prop P
...
+```agda
+is-small-type-subtype-LEM :
+  {l1 l2 : Level} {A : UU l1} (P : subtype l2 A) →
+  LEM l2 →
+  is-small l1 (type-subtype P)
+is-small-type-subtype-LEM {l1} {l2} {A} P lem =
+  is-small-Σ {l1} {l2} {l1} {l1}
+    (is-small' {l1} {A})
+    (λ x → is-small-type-Prop-LEM l1 lem (P x))
+```
```
Comment (EgbertRijke) [inline src/foundation/law-of-excluded-middle.lagda.md:141]: I would probably move this over to `foundation.subtypes`

File: src/foundation/subtypes.lagda.md [hunk 6]
```diff
@@ -174,6 +207,19 @@ pr1 (subtype-Set l2 A) = subtype l2 A
 pr2 (subtype-Set l2 A) = is-set-subtype
 ```
 
+### TODO: raise subtype
```
Comment (EgbertRijke) [inline src/foundation/subtypes.lagda.md:210]:
```suggestion
### Raising universe levels of subtypes
```

File: src/foundation/subtypes.lagda.md [hunk 7]
```diff
@@ -143,20 +144,52 @@ module _
...
+### TODO: equiv subtypes
+
+```agda
+module _
+  {l1 : Level} {A : UU l1}
+  where
+
+  equiv-subtypes :
+    {l2 l3 : Level} (P : subtype l2 A) (Q : subtype l3 A) → UU (l1 ⊔ l2 ⊔ l3)
+  equiv-subtypes P Q = (x : A) → is-in-subtype P x ≃ is-in-subtype Q x
```
Comment (EgbertRijke) [inline src/foundation/subtypes.lagda.md:162]: We usually use singular nouns in names:

```suggestion
  equiv-subtype :
    {l2 l3 : Level} (P : subtype l2 A) (Q : subtype l3 A) → UU (l1 ⊔ l2 ⊔ l3)
  equiv-subtype P Q = (x : A) → is-in-subtype P x ≃ is-in-subtype Q x
```

File: src/foundation/subtypes.lagda.md [hunk 8]
```diff
@@ -143,20 +144,52 @@ module _
   {l1 : Level} {A : UU l1}
   where
 
+  antisymmetric-leq-subtype :
+    {l2 : Level} (P Q : subtype l2 A) → P ⊆ Q → Q ⊆ P → P ＝ Q
+  antisymmetric-leq-subtype P Q H K =
+    eq-has-same-elements-subtype P Q (λ x → (H x , K x))
+```
+
+### TODO: equiv subtypes
```
Comment (EgbertRijke) [inline src/foundation/subtypes.lagda.md:153]:
```suggestion
### Equivalences of subtypes
```

File: src/foundation/surjective-maps.lagda.md [hunk 9]
```diff
@@ -463,6 +463,14 @@ module _
     is-surjective g → is-surjective h → is-surjective (g ∘ h)
   is-surjective-comp {g} {h} =
     is-surjective-left-map-triangle (g ∘ h) g h refl-htpy
+
+  surjection-comp : B ↠ X → A ↠ B → A ↠ X
+  surjection-comp g h =
```
Comment (EgbertRijke) [inline src/foundation/surjective-maps.lagda.md:468]: I would name this `comp-surjection`

```suggestion
  comp-surjection : B ↠ X → A ↠ B → A ↠ X
  comp-surjection g h =
```

File: src/modal-logic/formulas.lagda.md [hunk 10]
```diff
@@ -0,0 +1,200 @@
...
+</details>
+
+## Idea
+
+The formula of modal logic is defined inductively as follows:
+
+- A variable is a formula.
+- ⊥ is a formula.
+- If `a` and `b` are formulas, then `a → b` is a formula.
+- If `a` is a formula, then □`a` is a formula.
```
Comment (EgbertRijke) [inline src/modal-logic/formulas.lagda.md:35]:
```suggestion
The type of {{#concept "formulas of modal logic" Agda=modal-formula}} is defined inductively as follows:

- A variable is a formula of modal logic.
- `⊥` is a formula of modal logic.
- If `a` and `b` are formulas of modal logic, then `a → b` is a formula of modal logic.
- If `a` is a formula of modal logic, then `□ a` is a formula of modal logic.
```

File: src/modal-logic/formulas.lagda.md [hunk 11]
```diff
@@ -0,0 +1,200 @@
...
+
+## Definition
+
+### Inductive definition of formulas
```
Comment (EgbertRijke) [inline src/modal-logic/formulas.lagda.md:39]:
```suggestion
### Inductive definition of formulas of modal logic
```

File: src/modal-logic/formulas.lagda.md [hunk 12]
```diff
@@ -0,0 +1,200 @@
+# Modal logic formulas
```
Comment (EgbertRijke) [inline src/modal-logic/formulas.lagda.md:1]:
```suggestion
# Formulas of modal logic
```

I would make "Formulas" the first word, so that it doesn't confuse people that something starting with the "M" is listed among the files starting with "F" in an otherwise alphabetically ordered list.

File: src/modal-logic/formulas.lagda.md [hunk 13]
```diff
@@ -0,0 +1,200 @@
...
+
+  eq-implication-right : {a b c d : modal-formula i} → a →ₘ b ＝ c →ₘ d → b ＝ d
+  eq-implication-right refl = refl
+
+  eq-box : {a b : modal-formula i} → □ₘ a ＝ □ₘ b → a ＝ b
+  eq-box refl = refl
+
+  eq-diamond : {a b : modal-formula i} → ◇ₘ a ＝ ◇ₘ b → a ＝ b
+  eq-diamond refl = refl
+```
```
Comment (EgbertRijke) [inline src/modal-logic/formulas.lagda.md:102]: I would place this under `## Properties`

File: src/modal-logic/formulas.lagda.md [hunk 14]
```diff
@@ -0,0 +1,200 @@
...
+    ( is-prop-Eq-modal-formula a c)
+    ( is-prop-Eq-modal-formula b d)
+  is-prop-Eq-modal-formula (_ →ₘ _) (□ₘ _) = is-prop-raise-empty
+  is-prop-Eq-modal-formula (□ₘ _) (varₘ _) = is-prop-raise-empty
+  is-prop-Eq-modal-formula (□ₘ _) ⊥ₘ = is-prop-raise-empty
+  is-prop-Eq-modal-formula (□ₘ _) (_ →ₘ _) = is-prop-raise-empty
+  is-prop-Eq-modal-formula (□ₘ a) (□ₘ c) = is-prop-Eq-modal-formula a c
+```
+
+### A formula is a set
```
Comment (EgbertRijke) [inline src/modal-logic/formulas.lagda.md:182]:
```suggestion
### The type of formulas of modal logic is a set
```

**Review by EgbertRijke — COMMENTED** [review]
This is a very nice pull request!

I am very impressed with this pull request. It covers a very substantial amount of modal logic, and many nontrivial theorems. The formalization is well thought-out and most of the coding style is very good. So all in all, this seems to be excellent work!

Since it is a larger pull request, I will review it in parts. I've looked over a couple of files and left a few comments on those. I will continue reviewing it over the coming days.

File: src/modal-logic/deduction.lagda.md [hunk 15]
```diff
@@ -0,0 +1,338 @@
+# Modal logic deduction
```
Comment (EgbertRijke) [inline src/modal-logic/deduction.lagda.md:1]:
```suggestion
# Deductions in modal logic
```

I would make the first word of this title "Deductions" so that it starts with the D, because the file titles will be listed by the file names in alphabetic ordering.

File: src/modal-logic/deduction.lagda.md [hunk 16]
```diff
@@ -0,0 +1,338 @@
...
+
+### Closure of a theory under the deduction system
+
+```agda
+  modal-logic-closure : modal-theory l2 i → modal-theory (l1 ⊔ l2) i
+  modal-logic-closure axioms a = trunc-Prop (axioms ⊢ₘ a)
+```
+
+### Modal logic predicate
+
```
Comment (EgbertRijke) [inline src/modal-logic/deduction.lagda.md:85]: A sentence explaining this definition informally would be nice. For instance:

```suggestion
### The predicate of being a modal logic

A {{#concept "modal logic" Agda=is-modal-logic}} is a theory of modal logic that contains its own deductive closure.
```

File: src/modal-logic/deduction.lagda.md [hunk 17]
```diff
@@ -0,0 +1,338 @@
...
+      {a b : modal-formula i} → axioms ⊢ₘ a →ₘ b → axioms ⊢ₘ a → axioms ⊢ₘ b
+    modal-nec : {a : modal-formula i} → axioms ⊢ₘ a → axioms ⊢ₘ □ₘ a
+```
+
+### Closure of a theory under the deduction system
+
+```agda
+  modal-logic-closure : modal-theory l2 i → modal-theory (l1 ⊔ l2) i
+  modal-logic-closure axioms a = trunc-Prop (axioms ⊢ₘ a)
+```
```
Comment (EgbertRijke) [inline src/modal-logic/deduction.lagda.md:82]: We try to avoid modules that cross over sections, just because it is harder for the reader to keep track of what is assumed and sections seem a natural breaking point. This approach requires the arguments to be given a few more times, but we find it improves readability.

It also improves maintainability to break modules more often, because it is easier to move code around if it's not in a module that spans a large portion of the file.

````suggestion
### The deductive closure of a theory

A modal formula is in the deductive closure of a theory if there [exists](foundation.existence.md) a deduction of the formula from the theory.

```agda
module _
  {l1 l2 : Level} {i : Set l1}
  where
  
  modal-logic-closure : modal-theory l2 i → modal-theory (l1 ⊔ l2) i
  modal-logic-closure axioms a = trunc-Prop (axioms ⊢ₘ a)
```
````

Comment (EgbertRijke) [reply src/modal-logic/deduction.lagda.md:82]: I would also suggest:
* Renaming `modal-logic-closure` to `deductive-closure-modal-theory`
* Adding an entry `is-in-deductive-closure-modal-theory` instead of using `is-in-subtype (modal-logic-closure theory)` later on.

File: src/modal-logic/deduction.lagda.md [hunk 18]
```diff
@@ -0,0 +1,338 @@
...
+    leq-prop-subtype (modal-logic-closure theory) theory
+
+  is-modal-logic : modal-theory l2 i → UU (l1 ⊔ l2)
+  is-modal-logic = type-Prop ∘ is-modal-logic-Prop
+```
+
+### TODO: Title
+
+```agda
+  is-in-modal-logic-closure-deduction :
```
Comment (EgbertRijke) [inline src/modal-logic/deduction.lagda.md:98]: If my previous renaming suggestions are accepted, then this one could be named `is-in-deductive-closure-is-in-modal-theory`.

File: src/modal-logic/deduction.lagda.md [hunk 19]
```diff
@@ -0,0 +1,338 @@
...
+  is-contradictory-modal-logic-Prop logic = logic ⊥ₘ
+
+  is-contradictory-modal-logic : modal-theory l2 i → UU l2
+  is-contradictory-modal-logic = type-Prop ∘ is-contradictory-modal-logic-Prop
+
+  is-consistent-modal-logic-Prop : modal-theory l2 i → Prop l2
+  is-consistent-modal-logic-Prop = neg-Prop ∘ is-contradictory-modal-logic-Prop
+
+  is-consistent-modal-logic : modal-theory l2 i → UU l2
+  is-consistent-modal-logic = type-Prop ∘ is-consistent-modal-logic-Prop
```
Comment (EgbertRijke) [inline src/modal-logic/deduction.lagda.md:113]: It would make sense if the consistent and inconsistent modal theories each get their own sections `### Inconsistent modal theories` and `### Consistent modal theories`.

File: src/modal-logic/deduction.lagda.md [hunk 20]
```diff
@@ -0,0 +1,338 @@
...
+```agda
+  is-modal-logic-Prop : modal-theory l2 i → Prop (l1 ⊔ l2)
+  is-modal-logic-Prop theory =
+    leq-prop-subtype (modal-logic-closure theory) theory
+
+  is-modal-logic : modal-theory l2 i → UU (l1 ⊔ l2)
+  is-modal-logic = type-Prop ∘ is-modal-logic-Prop
+```
+
+### TODO: Title
```
Comment (EgbertRijke) [inline src/modal-logic/deduction.lagda.md:95]:
```suggestion
### Any modal theory is contained in its own deductive closure
```

File: src/modal-logic/deduction.lagda.md [hunk 21]
```diff
@@ -0,0 +1,338 @@
...
+  is-in-modal-logic-closure-deduction :
+    {axioms : modal-theory l2 i} {a : modal-formula i} →
+    axioms ⊢ₘ a → is-in-subtype (modal-logic-closure axioms) a
+  is-in-modal-logic-closure-deduction = unit-trunc-Prop
+
+  is-contradictory-modal-logic-Prop : modal-theory l2 i → Prop l2
+  is-contradictory-modal-logic-Prop logic = logic ⊥ₘ
+
+  is-contradictory-modal-logic : modal-theory l2 i → UU l2
+  is-contradictory-modal-logic = type-Prop ∘ is-contradictory-modal-logic-Prop
```
Comment (EgbertRijke) [inline src/modal-logic/deduction.lagda.md:107]: I would name this `is-inconsistent-modal-theory-Prop`, and the next one `is-inconsistent-modal-theory`.

The point is that it is a predicate on modal theories, which isn't currently reflected in the name. I personally find `inconsistent` reading a bit better than `contradictory`, and it is also more consistent with your use of `consistent` of the name for consistent modal theories.

I would also put this in a new section.

One question I have about your definition of contradictory modal logics is that currently it says that a _theory_ is contradictory if it contains falsehood. However, theories are not deductively closed, so wouldn't it be more natural to say that modal theories are inconsistent if their deductive closure contains falsehood?

````suggestion
```

### Inconsistent modal theories

```agda
  is-inconsistent-modal-theory-Prop : modal-theory l2 i → Prop l2
  is-inconsistent-modal-theory-Prop logic = logic ⊥ₘ

  is-inconsistent-modal-theory : modal-theory l2 i → UU l2
  is-inconsistent-modal-theory = type-Prop ∘ is-contradictory-modal-logic-Prop
````

**Review by EgbertRijke — COMMENTED** [review]
Here is another batch of comments :)

**Comment by fredrik-bakke** [comment]
Hi Viktor and welcome to agda-unimath! This is very impressive stuff, thanks for the big contribution!

File: src/foundation/propositional-resizing.lagda.md [hunk 22]
```diff
@@ -35,6 +44,47 @@ propositional-resizing l1 l2 =
     ( λ Ω → (P : Prop l2) → Σ (pr1 Ω) (λ u → type-equiv-Prop (pr2 Ω u) P))
 ```
 
+## TODO
+
+```agda
+module _
+  {l1 l2 : Level} ((Ω , prop-resize) : propositional-resizing l1 l2)
```
Comment (fredrik-bakke) [inline src/foundation/propositional-resizing.lagda.md:51]: I don't wish to dogpile on you, but I noticed this one while browsing through the code and thought you might not know about it. Agda implements pattern-matching in module declarations and type declarations via [`let`-bindings](https://agda.readthedocs.io/en/latest/language/let-and-where.html#let-expressions). These don't interact well with Agda's interactive mode, leading to unreadable goal expressions down the line. Therefore we advise against using pattern matching in places such as this one. The principled approach is to define named projection maps for propositional resizing and then use those instead.

Comment (spcfox) [reply src/foundation/propositional-resizing.lagda.md:51]: Oh, ok, I fix this. I agree, It's really hard to read in interactive mode

File: src/modal-logic/deduction.lagda.md (hunk 21 above)
Comment (spcfox) [reply src/modal-logic/deduction.lagda.md:107]: > However, theories are not deductively closed, so wouldn't it be more natural to say that modal theories are inconsistent if their deductive closure contains falsehood?

On the one hand, this would be correct from a definitional point of view. But on the other hand, in proofs this definition is already used in relation to closures, therefore it is convenient to use it in this form. I'll think about how best to determine

File: src/lists/functoriality-lists.lagda.md [hunk 23]
```diff
@@ -257,3 +257,27 @@ map-snoc-list :
 map-snoc-list f nil a = refl
 map-snoc-list f (cons b x) a = ap (cons (f b)) (map-snoc-list f x a)
 ```
+
+### TODO: maybe another file
```
Comment (EgbertRijke) [inline src/lists/functoriality-lists.lagda.md:261]:
```suggestion
### Lists obtained from maps of elements of lists

Consider a list `l : list A` of elements of `A`, and consider a function `f : (a : A) → a ∈ l → B`, which assigns to each element of `l` a value in `B`. Then we obtain a list of elements of `B` whose elements are given by `f`.

This operation is a generalization of `map-list`, because we only need to assign values in `B` to the elements of the list.
```

Comment (EgbertRijke) [reply src/lists/functoriality-lists.lagda.md:261]: I think this entry is fine in this file.

File: src/lists/functoriality-lists.lagda.md [hunk 24]
```diff
@@ -257,3 +257,27 @@ map-snoc-list :
...
+
+```agda
+dependent-map-list :
```
Comment (EgbertRijke) [inline src/lists/functoriality-lists.lagda.md:264]: Given what this function does, perhaps `map-element-list` is more descriptive. Feel free to disregard this suggestion, if you think `dependent-map-list` is better.

File: src/lists/lists-subtypes.lagda.md [hunk 25]
```diff
@@ -0,0 +1,237 @@
...
+open import lists.concatenation-lists
+open import lists.lists
+open import lists.reversing-lists
+```
+
+</details>
+
+## Idea
+
+TODO
```
Comment (EgbertRijke) [inline src/lists/lists-subtypes.lagda.md:39]: Perhaps the "image" of a list would be a good name for this concept. What you describe here is equivalent to the image of the projection map

```text
  (Sigma (a : A), a ∈ l) → A
```

where the first time is the type of all elements of `l`. If you agree with this suggestion, we could change the file name to `images-lists.lagda.md` and the title to `# Images of lists`.

For the `## Idea` section, I have the following suggestion:

````suggestion
For any [list](lists.lists.md) `l : list A` of elements of `A`, the {{#concept "image" Disambiguation="lists"}} of `l` is the least [subtype](foundation.subtypes.md) of `A` that contains all elements of `l`. In other words, it is the subtype of all elements of `A` that are merely elements of `l`, in the sense that the [proposition](foundation-core.propositions.md)

```text
  ║a ∈ l║
```

holds, where we applied the [propositional truncation](foundation.propositional-truncations.md) to the elementhood relation of lists.
````

Comment (EgbertRijke) [reply src/lists/lists-subtypes.lagda.md:39]: Changing the concept name to "image of lists" would also trigger some name changes in your entries below. The basic name would be `image-list`. Let me know if you want me to go through all of them and make suggestions, or whether you like to come up with names yourself.

**Review by EgbertRijke — COMMENTED** [review]
Here is another batch of comments :)

**Review by EgbertRijke — COMMENTED** [review]
Here is another couple of comments.

I find myself making suggestions that are dependent on previous suggestions, so perhaps it is best for me to let you work on my current suggestions first, before continuing the review. 

Your work is definitely very good, and it would be an amazing addition to the library. The suggestions I made are mostly about what names to choose for certain entries and how to integrate it with the rest of the library better, but the quality of your work is without doubt excellent.

File: src/foundation/law-of-excluded-middle.lagda.md (hunk 5 above)
Comment (spcfox) [reply src/foundation/law-of-excluded-middle.lagda.md:141]: Yes, I think so too, but I can't import `foundation.law-of-excluded-middle` in `foudation.subtypes`:

```
cyclic module dependency:
  foundation.subtypes
  foundation.law-of-excluded-middle
  foundation.booleans
  univalent-combinatorics.standard-finite-types
  foundation.equality-coproduct-types
  foundation.coproduct-types
  foundation.negated-equality
  foundation.binary-relations
  foundation.subtypes
```

Maybe it's worth moving it to a new file?

Comment (EgbertRijke) [reply src/foundation/law-of-excluded-middle.lagda.md:141]: Ah ok. Then it's ok to leave it here.

Apologies for the erroneous suggestion.

File: src/order-theory/maximal-elements-posets.lagda.md [hunk 26]
```diff
@@ -0,0 +1,46 @@
...
+module _
+  {l1 l2 : Level} (X : Poset l1 l2)
+  where
+
+  is-maximal-element-Poset-Prop : type-Poset X → Prop (l1 ⊔ l2)
+  is-maximal-element-Poset-Prop x =
+    Π-Prop
+      ( type-Poset X)
+      ( λ y →
+        ( function-Prop (leq-Poset X x y) (y ＝ x , is-set-type-Poset X y x)))
```
Comment (fredrik-bakke) [inline src/order-theory/maximal-elements-posets.lagda.md:37]: It seems like a typo snuck its way in here. I believe the condition should be

```suggestion
    Π-Prop
      ( type-Poset X)
      ( λ y →
        ( function-Prop (leq-Poset X y x) (y ＝ x , is-set-type-Poset X y x)))
```

Comment (fredrik-bakke) [reply src/order-theory/maximal-elements-posets.lagda.md:37]: A different way to define maximal elements would be as least upper bounds on the entire poset. Note however that these conditions are no longer equivalent for preorders.

Comment (fredrik-bakke) [reply src/order-theory/maximal-elements-posets.lagda.md:37]: oops, I misread. Never mind
